US05272128
A: 5-Hydroxy-3-isopropyl-1-methylpyrazole
To a solution of 30.0 grams of ethyl isobutyrylacetate in 130 ml of ethanol (anhydrous,5% methanol) at 10 C. was added dropwise over 30 minutes a solution of 8.7 grams of methyl hydrazine in 30 mls of ethanol. The reaction temperature did not exceed 20 C. After twenty minutes of additional stirring the cooling bath was removed and 2 ml of glacial acetic acid was added. After one hour of stirring at room temperature the reaction was then refluxed for four hours. After stirring overnight at room temperature the reaction was concentrated to yield a yellowish solid. This solid was stirred with 100 ml of hexanes for 30 minutes and the off-white solid was collected and rinsed with 75 ml of hexanes. The solid was dried in a vacuum oven at 45 C. overnight to yield 23.3 g of the desired product, mp 120-122 C.

reactant | ethyl isobutyrylacetate | 30.0 grams | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | methyl hydrazine | 8.7 grams | CNN | CH6N2
solvent | ethanol | 130 ml | C(C)O | C2H6O
solvent | ethanol | 30 mls | C(C)O | C2H6O
product | 5-Hydroxy-3-isopropyl-1-methylpyrazole | 23.3 g | OC1=CC(=NN1C)C(C)C | C7H12N2O
